US05843983
10(a) (2R,4R)-2-{2-[4-Bromo-2-(2-phenylethyl)phenoxy]ethyl}-1-ethoxycarbonyl-4-hydroxypyrrolidine
500 mg of 4-bromo-2-(2-phenylethyl)phenol were dissolved in 10 ml of N,N-dimethylacetamide, allowed to react with 220 mg of potassium t-butoxide and 440 mg of (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine and extracted in the same manner as described in step (a) of Example 1. The resulting oily substance was purified by silica gel column chromatography, using a 1:2 by volume mixture of hexane and ethyl acetate as the eluent, to give 280 mg (yield 34%) of the title compound as an oily substance.

reactant | 4-bromo-2-(2-phenylethyl)phenol | 500 mg | BrC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C14H13BrO
reactant | potassium t-butoxide | 220 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-1-ethoxycarbonyl-4-hydroxypyrrolidine | 440 mg | ClCC[C@H]1N(C[C@@H](C1)O)C(=O)OCC | C9H16ClNO3
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-2-{2-[4-Bromo-2-(2-phenylethyl)phenoxy]ethyl}-1-ethoxycarbonyl-4-hydroxypyrrolidine | 280 mg, yield 34% | BrC1=CC(=C(OCC[C@H]2N(C[C@@H](C2)O)C(=O)OCC)C=C1)CCC1=CC=CC=C1 | C23H28BrNO4
